US07531532B2
1-(3-Diethylaminopropyl)-3-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]urea
To a solution of 4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylamine (400 mg, 1.61 mmol) and triethylamine (0.455 ml, 3.26 mmol) in tetrahydrofuran (40 ml) was added phenyl chloroformate (0.307 ml, 2.45 mmol) dropwise while stirring in an ice bath, followed by stirring for 0.5 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (20 ml) and N,N-diethyl-1,3-propanediamine (606 mg, 4.2 mmol) were then added, followed by stirring at room temperature for 1 hr and 45 min. To the reaction mixture was added ethyl acetate (150 ml), washed with a saturated aqueous solution of sodium hydrogencarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:2, then ethyl acetate) to provide the titled compound (653 mg, 83.8%) as a pale yellow oil.

reactant | 4-(2-fluoro-4-nitrophenoxy)pyridin-2-ylamine | 1.61 mmol, 400 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | triethylamine | 3.26 mmol, 0.455 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 2.45 mmol, 0.307 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N,N-diethyl-1,3-propanediamine | 4.2 mmol, 606 mg | C(C)N(CCCN)CC | C7H18N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(3-Diethylaminopropyl)-3-[4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]urea | 653 mg, 83.8% | C(C)N(CCCNC(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F)CC | C19H24FN5O4
